US04650869
Preparation of DX-52-1
At first, 2.0 g of sodium cyanide is dissolved in 30 ml of 0.1M phosphate buffer (pH 7.4) and 1 g of crude DC-52-(containing 0.6 g of DC-52) is added thereto. The mixture is stirred at room temperature for 1.5 hours. The reaction mixture is passed through a column containing 200 ml of Diaion HP-20SS (made by Mitsubishi Chemical Industries Co., Ltd.), and the column is developed and eluted with 1 l of water (fraction Nos. 1-160; 6 ml each), and then with 1% acetone-99% water (by volume; fraction Nos. 161-224, 6 ml each). Fraction Nos. 125-165 and fraction Nos. 166-199 are joined together separately, and concentrated under reduced pressure, followed by freeze-drying to obtain 161 mg of fraction A and 179 mg of fraction B.

reactant | sodium cyanide | 2.0 g | [C-]#N.[Na+]
reactant | DC-52 | 1 g | CN1[C@H]2C[C@H]([C@@H]1[C@@H]3CC4=C([C@H]5N3[C@@H]2OC5)C(=CC=C4)OC)C(=O)[O-]
solvent | phosphate | 0.1M, 30 ml, pH 7.4 | P(=O)([O-])([O-])[O-]
product | DX-52-1 | CN1C2CC(C1C3CC4=C(C(N3C2C#N)CO)C(=CC=C4)OC)C(=O)O | C19H23N3O4
